US08663903B2
A 500 mL reactor was charged with 24.2 g (370 mmol/1.5 equivalents) of an activated metal zinc and 300 mL of THF (dehydrated), and thereto an ethyl bromodifluoroacetate/THF solution [51.47 g (253.6 mmol/1.0 equivalent) of ethyl bromodifluoroacetate and 80 mL of THF (dehydrated)] was added dropwise. After the dropping, stirring was conducted at room temperature for 20 minutes. Then, a propionaldehyde/THF solution [14.80 g (254.8 mmol/1.0 equivalent) of propionaldehyde and 80 mL of THF (dehydrated)] was added, followed by stirring at room temperature for 30 minutes. Then, water and diisopropyl ether were added to conduct a two-layer separation. The obtained organic layer was washed with diluted hydrochloric acid and water, followed by removing water by magnesium sulfate, conducting a filtration, and distilling diisopropyl ether out, thereby obtaining 41.2 g of the target 2,2-difluoro-3-hydroxypentanoic acid ethyl ester. Upon this, yield was 89%.

reactant | ethyl bromodifluoroacetate THF | 253.6 mmol, 80 mL, 51.47 g, 1.0 equivalent | BrC(C(=O)OCC)(F)F.C1CCOC1
reactant | ethyl bromodifluoroacetate | 253.6 mmol, 1.0 equivalent | BrC(C(=O)OCC)(F)F | C4H5BrF2O2
reactant | propionaldehyde THF | 254.8 mmol, 80 mL, 14.80 g, 1.0 equivalent | C(CC)=O.C1CCOC1
reactant | propionaldehyde | 254.8 mmol, 1.0 equivalent | C(CC)=O | C3H6O
reactant | diisopropyl ether | C(C)(C)OC(C)C | C6H14O
catalyst | zinc | [Zn] | Zn
solvent | water | O | H2O
solvent | THF | 300 mL | C1CCOC1 | C4H8O
product | 2,2-difluoro-3-hydroxypentanoic acid ethyl ester | yield was 89% | C(C)OC(C(C(CC)O)(F)F)=O | C7H12F2O3
